US09227972B2
Step D: (5S,6R & 5R,6S)-3-Allyl-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one
To a cooled, stirred solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 2.0 mL, 2.0 mmol) in THF (10 mL) at −78° C., was added a solution of (5S,6R & 5R,6S)-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one (0.50 g, 1.54 mmol) in THF (10 mL) dropwise, keeping the internal temperature of the reaction mixture below −65° C. The resulting mixture was stirred at −78° C. for 30 min, then a cold (−78° C.) solution of allyl bromide (0.242 g, 2.0 mmol) in THF (10 mL) was added dropwise, keeping the internal temperature of the reaction mixture below −65° C. The reaction mixture was allowed to warm slowly to ambient temperature and stirred for 18 h. The reaction was quenched by the addition of a saturated solution of sodium chloride (20 mL) and partitioned between water (50 mL) and EtOAc (200 mL). The organic layer was removed and the aqueous phase was extracted further with EtOAc (50 mL). The combined organic extracts were washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc—100:0 to 40:60, to give the title compound. MS: m/z=366.1 (M+1).

reactant | lithium bis(trimethylsilyl)amide | 2.0 mmol, 1.0 M, 2.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one | 1.54 mmol, 0.50 g | CC1C(CCC(N1CC(F)(F)F)=O)C1=C(C(=CC(=C1)F)F)F | C14H13F6NO
reactant | allyl bromide | 2.0 mmol, 0.242 g | C(C=C)Br | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Allyl-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one | C(C=C)C1C(N(C(C(C1)C1=C(C(=CC(=C1)F)F)F)C)CC(F)(F)F)=O | C17H17F6NO
